US05068334
3,4,7,8-Tetrahydro-2,5(1H,6H)-quinolinedione
5.00 g (0.675 mol) of 1-amino-cyclohexen-3-one and 65.65 g (1.35×0.675 mol) of acrylic acid are stirred for 3 hours under nitrogen in an oil bath heated to 180° C. The mixture is cooled and recrystallised from 1000 ml of methanol.

reactant | 1-amino-cyclohexen-3-one | 0.675 mol, 5.00 g | NC1=CC(CCC1)=O | C6H9NO
reactant | acrylic acid | 0.675 mol, 65.65 g | C(C=C)(=O)O | C3H4O2
product | 3,4,7,8-Tetrahydro-2,5(1H,6H)-quinolinedione | N1C(CCC=2C(CCCC12)=O)=O | C9H11NO2
